US04329347
6-(4-Phenylsulfinyl-butoxy)-3,4-dihydro-carbostyril
3.3 gm of 6-(4-phenylmercapto-butoxy)-3,4-dihydro-carbostyril were dissolved in 50 ml of methylene chloride, the solution cooled to -70° C., and a solution of 1.5 gm of sulfuryl chloride in 5 ml of methylene chloride was added dropwise. After 15 hours, 20 ml of 95% ethanol were added, and the mixture was heated to room temperature by removing the cooling bath, neutralized with an aqueous sodium carbonate solution. The methylene chloride phase was dried with sodium sulfate, and the solvent was evaporated. The residue was recrystallized from toluene.

reactant | 6-(4-phenylmercapto-butoxy)-3,4-dihydro-carbostyril | 3.3 gm | C1(=CC=CC=C1)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C19H21NO2S
reactant | sulfuryl chloride | 1.5 gm | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 6-(4-Phenylsulfinyl-butoxy)-3,4-dihydro-carbostyril | C1(=CC=CC=C1)S(=O)CCCCOC=1C=C2CCC(NC2=CC1)=O | C19H21NO3S
